US07144888B2
4-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-isoquinoline.
The title compound was prepared from 4-fluoro-6-(4-trifluoromethyl-phenyl)-pyrimidine (Example 169(a) and isoquinolin-4-ol (MonomerChem) analogous to the conditions described in Example 169(b). Mp: 206–211° C. MS (ESI, pos. ion) m/z: 368.2 (M+1).

reactant | 4-fluoro-6-(4-trifluoromethyl-phenyl)-pyrimidine | FC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6F4N2
reactant | isoquinolin-4-ol | C1=NC=C(C2=CC=CC=C12)O | C9H7NO
product | 4-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-isoquinoline | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)OC1=CN=CC2=CC=CC=C12)(F)F | C20H12F3N3O
